US07767671B2
Following the procedure of Example 11, a mixture of 220 mg (0.5 mmol) of 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile and 290 mg (1.6 mmol) of 1-(2-imidazole-1-yl-ethyl)piperazine in 1.2 mL of 1-methyl 2-pyrrolidinone is heated at 105° C. for 20 hours to yield the crude product. Purification by silica gel chromatography (gradient 95:5-methylene chloride/methanol to 85:15 methylene chloride/methanol) gives 210 mg of 4-({3-chloro-4-[(1-methyl-1H-imidazole-2-yl)thio]phenyl}amino)-7-{4-[2-1H-imidazole-1-yl)ethyl]piperazin-1-yl}-6-methoxyquinoline-3-carbonitrile as a beige solid, mp 251-253° C.

reactant | 4-[3-chloro-4-(1-methyl-1H-imidazole-2-ylsulfanyl)-phenylamino]-7-fluoro-6-methoxyquinoline-3-carbonitrile | 0.5 mmol, 220 mg | ClC=1C=C(C=CC1SC=1N(C=CN1)C)NC1=C(C=NC2=CC(=C(C=C12)OC)F)C#N | C21H15ClFN5OS
reactant | 1-(2-imidazole-1-yl-ethyl)piperazine | 1.6 mmol, 290 mg | N1(C=NC=C1)CCN1CCNCC1 | C9H16N4
solvent | 1-methyl 2-pyrrolidinone | 1.2 mL | CN1C(CCC1)=O | C5H9NO
product | 6-methoxyquinoline-3-carbonitrile | COC=1C=C2C=C(C=NC2=CC1)C#N | C11H8N2O
